US07713994B2
A suspension of 1-(4-nitrophenyl)piperidine-4-carboxylic acid (0.76 g, 3.0 mmol) in dichloromethane (15 mL) is cooled to 0° C. in an ice-water bath. Carbonyldiimidazole (0.59 g, 3.6 mmol) is added and the mixture is allowed to warm to room temperature. An additional volume of dichloromethane (10 mL) is added and the mixture continued to stir for 30 minutes before the addition of N,O-dimethylhydroxylamine hydrochloride (0.73 g, 7.5 mmol). After stirring overnight, the reaction mixture is filtered. The insoluble material is washed with diethyl ether, and the combined filtrate is washed with 5% aqueous potassium hydrogen carbonate solution, water, and saturated aqueous sodium chloride solution. The organic phase is dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give 1-(4-nitro-phenyl)-piperidine-4-carboxylic acid methoxy-methyl-amide as a bright yellow powder (0.84 g, 95%).

reactant | 1-(4-nitrophenyl)piperidine-4-carboxylic acid | 3.0 mmol, 0.76 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C12H14N2O4
reactant | Carbonyldiimidazole | 3.6 mmol, 0.59 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 7.5 mmol, 0.73 g | Cl.CNOC
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(4-nitro-phenyl)-piperidine-4-carboxylic acid methoxy-methyl-amide | 0.84 g, 95% | CON(C(=O)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C14H19N3O4
